US04160036
5,6-Dihydro-2,4,4,6-tetramethyl-4H-1,3-oxazine (10.98 g) in anhydrous tetrahydrofuran (80 ml) was cooled to -70° under nitrogen. n-Butyllithium in hexane (44 ml) was added dropwise to the stirred solution over approximately 1 hr and the mixture was stirred for a further hour. 4-Fluorobenzyl chloride (12.38 g) in anhydrous tetrahydrofuran (20 ml) was added to the mixture over 30 min and the stirred reaction mixture was allowed to warm to room temperature overnight. The mixture was poured into iced water (100 ml) and adjusted to pH 2-3 with 9 M hydrochloric acid. The solution was extracted with pentane (3×75 ml), then adjusted to pH 14 with 10 M sodium hydroxide, and the resulting oil was extracted with ether (3×75 ml). The solvent was evaporated to give crude 5,6-dihydro-4,4,6-trimethyl-2-[2-(4-fluorophenyl)ethyl]-4H-1,3-oxazine (13.87 g).

reactant | 5,6-Dihydro-2,4,4,6-tetramethyl-4H-1,3-oxazine | 10.98 g | CC=1OC(CC(N1)(C)C)C | C8H15NO
reactant | n-Butyllithium | C(CCC)[Li]
reactant | 4-Fluorobenzyl chloride | 12.38 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | hydrochloric acid | 9 M | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | hexane | 44 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 5,6-dihydro-4,4,6-trimethyl-2-[2-(4-fluorophenyl)ethyl]-4H-1,3-oxazine | 13.87 g | CC1(N=C(OC(C1)C)CCC1=CC=C(C=C1)F)C | C15H20FNO
